US07691882B2
5-(3-(6-(2-Fluoro-phenoxy)-pyridin-3-ylmethyl)-isoxazol-5-yl)-pyridin-2-ylamine
To a mixture of (6-(2-fluoro-phenoxy)-pyridin-3-yl)-acetohydroximoyl chloride (28 mg) described in Manufacturing Example 74-1-4 and tetrahydrofuran (1 mL) were added 5-ethynyl-pyridin-2-ylamine (9.0 mg, 0.076 mmol) described in Manufacturing Example 28-1-3 and triethylamine (21 μL, 0.15 mmol), which was stirred for 5 hours at 50° C. The reaction mixture was allowed to room temperature, water was added at the same temperature, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride, and was concentrated under a reduced pressure. The residue was purified by NH silica gel column chromatography (ethyl acetate) to obtain the title compound (4.6 mg, 17%).

reactant | (6-(2-fluoro-phenoxy)-pyridin-3-yl)-acetohydroximoyl chloride | 28 mg | FC1=C(OC2=CC=C(C=N2)CC(=NO)Cl)C=CC=C1 | C13H10ClFN2O2
reactant | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
reactant | 5-ethynyl-pyridin-2-ylamine | 0.076 mmol, 9.0 mg | C(#C)C=1C=CC(=NC1)N | C7H6N2
reactant | triethylamine | 0.15 mmol, 21 μL | C(C)N(CC)CC | C6H15N
solvent | water | O | H2O
product | 5-(3-(6-(2-Fluoro-phenoxy)-pyridin-3-ylmethyl)-isoxazol-5-yl)-pyridin-2-ylamine | 4.6 mg, 17% | FC1=C(OC2=CC=C(C=N2)CC2=NOC(=C2)C=2C=CC(=NC2)N)C=CC=C1 | C20H15FN4O2
